US07935699B2
2-(3-Chloro-4-methanesulfonyl-phenyl)-3-oxetan-3-yl-propionic acid methyl ester (1.0 g, 3.00 mmol) was dissolved in methanol (50 ml) and treated with a solution of lithium hydroxide monohydrate (0.50 g, 11.92 mmol) in water (1 ml) at 25° C. It was stirred at 25° C. for 1.5 h. The reaction was then concentrated in vacuo to remove the methanol. The remaining aqueous layer was then diluted with water and acidified to pH=3 with an aqueous 1N hydrochloric acid solution. This was then extracted with methylene chloride (3×50 mL), the organic layers combined and dried over magnesium sulfate, filtered and concentrated in vacuo to afford 2-(3-chloro-4-methanesulfonyl-phenyl)-3-oxetan-3-yl-propionic acid (0.87 g, 91%) as a white solid: 1H NMR (300 MHz, DMSO-d6) δ ppm 2.01-2.14 (m, 1H, CH of CH2), 2.25-2.41 (m, 1H, CH of CH2), 2.75-2.89 (m, 1H, CH), 3.36 (s, 3H, SO2CH3), 3.68 (t, J=7.8 Hz, 1H, ArCHCO), 4.13 (t, J=6.3 Hz, 1H, OCH of OCH2), 4.27 (t, J=6.3 Hz, 1H, OCH of OCH2), 4.44 (dd, J=7.9, 5.9 Hz, 1H, OCH of OCH2), 4.57 (dd, J=7.9, 5.9 Hz, 1H, OCH of OCH2), 7.54 (dd, Jo=8.1 Hz, Jm=1.7 Hz, 1H, Ar), 7.68 (d, Jm=1.7 Hz, 1H, Ar), 8.00 (d, Jo=8.1 Hz, 1H, Ar), 12.77 (brs, 1H, CO2H).

reactant | 2-(3-Chloro-4-methanesulfonyl-phenyl)-3-oxetan-3-yl-propionic acid methyl ester | 3.00 mmol, 1.0 g | COC(C(CC1COC1)C1=CC(=C(C=C1)S(=O)(=O)C)Cl)=O | C14H17ClO5S
reactant | lithium hydroxide monohydrate | 11.92 mmol, 0.50 g | O.[OH-].[Li+]
solvent | methanol | 50 ml | CO | CH4O
solvent | water | 1 ml | O | H2O
product | 2-(3-chloro-4-methanesulfonyl-phenyl)-3-oxetan-3-yl-propionic acid | 0.87 g, 91% | ClC=1C=C(C=CC1S(=O)(=O)C)C(C(=O)O)CC1COC1 | C13H15ClO5S
